US08809376B2
{(S)-6-[(R)-5-Cyano-4-(4-methylsulfinyl-benzyl)-indan-1-yloxy]-2,3-dihydro-benzofuran-3-yl}-acetic acid
Aqueous hydrogen peroxide (35%, 5 μL) is added to a solution of {(S)-6-[(R)-5-cyano-4-(4-methylsulfanyl-benzyl)-indan-1-yloxy]-2,3-dihydro-benzofuran-3-yl}-acetic acid (120 mg) in 1,1,1,3,3,3-hexafluoro-2-propanol (1.5 mL) at room temperature. The mixture is stirred at room temperature for 2 h and then diluted with ethyl acetate. The resulting mixture is washed with aqueous Na2S2C3 solution, 1 M aqueous HCl solution, and brine, and dried (Na2SO4). The solvent is evaporated to give the title compound. LC (method 4): tR=0.98 min; Mass spectrum (ESI+): m/z=488 [M+H]+.

reactant | hydrogen peroxide | 5 μL | OO | H2O2
reactant | {(S)-6-[(R)-5-cyano-4-(4-methylsulfanyl-benzyl)-indan-1-yloxy]-2,3-dihydro-benzofuran-3-yl}-acetic acid | 120 mg | C(#N)C=1C(=C2CC[C@H](C2=CC1)OC1=CC2=C([C@@H](CO2)CC(=O)O)C=C1)CC1=CC=C(C=C1)SC | C28H25NO4S
solvent | 1,1,1,3,3,3-hexafluoro-2-propanol | 1.5 mL | FC(C(C(F)(F)F)O)(F)F | C3H2F6O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | {(S)-6-[(R)-5-Cyano-4-(4-methylsulfinyl-benzyl)-indan-1-yloxy]-2,3-dihydro-benzofuran-3-yl}-acetic acid | C(#N)C=1C(=C2CC[C@H](C2=CC1)OC1=CC2=C([C@@H](CO2)CC(=O)O)C=C1)CC1=CC=C(C=C1)S(=O)C | C28H25NO5S
